US05733476
Then, 44 g of 2-octylbenzofuran was dissolved in 440 ml of ethanol. To the solution 35 g of 10%-palladium-carbon was added to effect catalytic reduction for 3 hours sunder normal pressure. After the reaction, the catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to obtain a residue. The residue was purified by silica gel column chromatography (eluent:hexane) to obtain 42 g of liquid 2-octylcoumaran (Yield: 94.6%).

reactant | 2-octylbenzofuran | 44 g | C(CCCCCCC)C=1OC2=C(C1)C=CC=C2 | C16H22O
solvent | ethanol | 440 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 2-octylcoumaran | Yield: 94.6% | C(CCCCCCC)C1OC2=CC=CC=C2C1 | C16H24O
